US06613942B1
Step B: 4-Aminonaphthaldehyde.
To a stirring boiling solution of sulfur (3.7 g) in 12% aqueous NaOH (50 mL) was added a solution of 4-nitro-1-methylnaphthalene (8 g) in ethanol (50 mL). After refluxing the solution for one hour, the reaction was diluted with 500 mL of ethyl acetate and washed with water and brine, dried over MgSO4, and concentrated. The product was purified via silica gel column chromatography using ethyl acetate:hexane (5:95 to 10:90). The product (2.54 g, 34%) was stored at −78° C.

reactant | sulfur | 3.7 g | [S] | S
reactant | 4-nitro-1-methylnaphthalene | 8 g | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)C | C11H9NO2
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-Aminonaphthaldehyde | NC1=CC=C(C2=CC=CC=C12)C=O | C11H9NO
